US04791225
3-Bromo-2-chloro-4,5-difluorobenzoic acid
A solution of 3-bromo-2-chloro-4,5-difluorobenzonitrile (9.8 g) in concentrated sulfuric acid (10 ml) was stirred at 100° C. for 35 minutes. After cooling, 18N sulfuric acid (50 ml) and water (10 ml) were added to the reaction mixture. The reaction mixture was stirred at 100° C. for 4 hours and then poured into ice water (300 ml). The resulting precipitate was collected by filtration, washed with water sufficiently and recrystallized from dichloromethane-n-hexane to give the title compound (9.24 g) as colorless prisms, mp 137.5°-139.5 ° C.

reactant | 3-bromo-2-chloro-4,5-difluorobenzonitrile | 9.8 g | BrC=1C(=C(C#N)C=C(C1F)F)Cl | C7HBrClF2N
reactant | water | 10 ml | O | H2O
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 18N, 50 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Bromo-2-chloro-4,5-difluorobenzoic acid | 9.24 g | BrC=1C(=C(C(=O)O)C=C(C1F)F)Cl | C7H2BrClF2O2
